US08013010B2
3-Iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
38.63 g (0.28 mol) of zinc chloride are heated until molten under an argon atmosphere in a reactor. After cooling the reaction mass, 800 ml of toluene, 800 ml of acetonitrile and 44 g of 4 Å molecular sieve are added. The reaction mixture is stirred at ambient temperature for 90 minutes and 25 g (0.113 mol) of 3-iodophenol are added. The reaction mixture is brought to 90° C. and, after 2 minutes, 39 ml (0.28 mol) of triethylamine and 44.39 g (0.12 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide are added. The reaction mixture is kept stirred at 80° C. for 30 minutes. After cooling, water and ethyl acetate are added and the insoluble compounds are removed by filtration. The organic phase is washed successively with water, a 1N sodium hydroxide solution and a saturated sodium chloride solution. The organic phase is dried over magnesium sulfate, decolored using active charcoal, filtered and evaporated under reduced pressure. The residue is purified by chromatography on a silica column, elution being carried out using a cyclohexane/ethyl acetate mixture (70/30; v/v), and recrystallized from isopropanol. The expected product is obtained in the form of a white powder with a yield of 37%.

reactant | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-iodophenol | 0.113 mol, 25 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | triethylamine | 0.28 mol, 39 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 0.12 mol, 44.39 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
catalyst | zinc chloride | 0.28 mol, 38.63 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | 3-Iodophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 37% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)I)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19IO7S
